US05468890
Under a nitrogen atmosphere, 8 mg of hexachloroplatinic acid are added to 178 g (1.0 mol) of 2-allyloxyethyl phenyl ether, the preparation of which is described above under a), and the mixture is heated to 70° C. 169 g (1.25 mol) of trichlorosilane are added dropwise to the mixture over a period of 2 hours and the mixture is stirred for a further 2 hours at 70° C. The crude product is purified by distillation in vacuo, giving 250 g of 3-(2-phenoxyethoxy)propyltrichlorosilane having an acid number of 531.

reactant | 2-allyloxyethyl phenyl ether | 1.0 mol, 178 g | C1(=CC=CC=C1)OCCOCC=C | C11H14O2
reactant | trichlorosilane | 1.25 mol, 169 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | hexachloroplatinic acid | 8 mg | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 3-(2-phenoxyethoxy)propyltrichlorosilane | 250 g | O(C1=CC=CC=C1)CCOCCC[Si](Cl)(Cl)Cl | C11H15Cl3O2Si
